US09102673B2
Step 2: Methyl 1-[2-(4-chlorophenoxy)ethyl]-4-(2-fluoropyridin-4-yl)-1H-pyrrolo[3,2-c]pyridine-2-carboxylate
To a solution of methyl 4-(2-fluoropyridin-4-yl)-1H-pyrrolo[3,2-c]pyridine-2-carboxylate (67 mg, 0.247 mmole) in DMF (1.2 mL) was added NaH (60% dispersion in mineral oil, 13 mg, 0.325 mmole) at RT. After gas evolution had ceased 1-(2-bromoethoxy)-4-chlorobenzene (76 mg, 0.321 mmole) was added and the mixture was heated to 60° C. After 3 hr the mixture was diluted with H2O and extracted with EtOAc (3×). The combined organic layers were washed with H2O and brine, dried (MgSO4), filtered, and concentrated. Flash column chromatography (Biotage-SNAP-10 g SiO2, 35% EtOAc/hexanes) gave the title compound (86 mg, 82%) as a white foam. 1H NMR (400 MHz, CDCl3): δ 8.58 (d, J=5.9 Hz, 1 H); 8.39 (d, J=5.2 Hz, 1 H); 7.79 (d, J=5.4 Hz, 1 H); 7.60-7.51 (m, 3 H); 7.18-7.15 (m, 2 H); 6.72-6.67 (m, 2 H); 5.02-4.96 (m, 2 H); 4.39-4.33 (m, 2 H); 3.97 (s, 3 H).

reactant | methyl 4-(2-fluoropyridin-4-yl)-1H-pyrrolo[3,2-c]pyridine-2-carboxylate | 0.247 mmole, 67 mg | FC1=NC=CC(=C1)C1=NC=CC2=C1C=C(N2)C(=O)OC | C14H10FN3O2
reactant | NaH | 0.325 mmole, 13 mg | [H-].[Na+]
reactant | 1-(2-bromoethoxy)-4-chlorobenzene | 0.321 mmole, 76 mg | BrCCOC1=CC=C(C=C1)Cl | C8H8BrClO
solvent | DMF | 1.2 mL | CN(C)C=O | C3H7NO
solvent | H2O | O | H2O
product | Methyl 1-[2-(4-chlorophenoxy)ethyl]-4-(2-fluoropyridin-4-yl)-1H-pyrrolo[3,2-c]pyridine-2-carboxylate | 86 mg, 82% | ClC1=CC=C(OCCN2C(=CC=3C(=NC=CC32)C3=CC(=NC=C3)F)C(=O)OC)C=C1 | C22H17ClFN3O3
